US07091262B2
To a mixture of 95.1 g (0.897 mol) of sodium hypophosphite hydrate in 600 mL 95% ethanol, 23.8 mL of concentrated sulfuric acid was added. 1-Octene (33.6 g, 0.299 mol) was added to the stirred mixture followed by 1.69 g (0.0149 mol) of 30% hydrogen peroxide. The resulting mixture was refluxed for 8 hs, and then another 1.15 g (0.010 mol) of hydrogen peroxide was added and the reaction mixture was continued to reflux for another 8 hs. The resulting mixture was cooled, filtered, and then the ethanol was removed using a rotary evaporator. To the resulting residue, 200 mL water was added and then 50% sodium hydroxide solution was added until the solution became alkaline. The mixture was extracted twice with 200 mL diethyl ether, and the aqueous phase was then acidified with concentrated sulfuric acid. The aqueous layer was extracted with 200 mL ethyl acetate, and the organic layer was washed with saturated sodium chloride and then dried over anhydrous magnesium sulfate. The organic layer was decanted and the drying agent was washed with another 50 mL ethyl acetate. The combined organic layers were evaporated on a rotary evaporator. 45.2 g of n-octylphosphinic acid (84.8% yield) was obtained.

reactant | sodium hypophosphite hydrate | 0.897 mol, 95.1 g | O.[PH2](=O)[O-].[Na+]
reactant | 1-Octene | 0.299 mol, 33.6 g | C=CCCCCCC | C8H16
reactant | hydrogen peroxide | 0.0149 mol, 1.69 g | OO | H2O2
reactant | hydrogen peroxide | 0.010 mol, 1.15 g | OO | H2O2
solvent | ethanol | 600 mL | C(C)O | C2H6O
solvent | sulfuric acid | 23.8 mL | S(O)(O)(=O)=O | H2O4S
product | n-octylphosphinic acid | 45.2 g, 84.8% yield | C(CCCCCCC)P(O)=O | C8H19O2P
